US07273878B2
To 5 ml of pyridine was dissolved 0.62 g (2.3 mmol) of 6,6-difluoro-5-methyl-5-hexenyl 6-aminonicotinate, followed by the addition of 0.48 g (2.5 mmol) of toluene-4-sulfonylchloride under ice-cooling, stirring for 10 minutes and then stirring at room temperature for 15 hours. The reaction liquid was then poured in 5% hydrochloric acid and extracted with ethyl acetate. The organic layer was washed with water and a saturated saline solution in this order, followed by drying over anhydrous magnesium sulfate and concentration under reduced pressure. The residue was purified with silica gel column chromatography (ethyl acetate:hexane=1:2) to obtain 0.88 g (yield: 90%) of 6,6-difluoro-5-methyl-5-hexenyl 6-(toluene-4-sulfonylamino)nicotinate.

reactant | pyridine | 5 ml | N1=CC=CC=C1 | C5H5N
reactant | 6,6-difluoro-5-methyl-5-hexenyl 6-aminonicotinate | 2.3 mmol, 0.62 g | NC1=NC=C(C(=O)OCCCCC(=C(F)F)C)C=C1 | C13H16F2N2O2
reactant | toluene-4-sulfonylchloride | 2.5 mmol, 0.48 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
solvent | hydrochloric acid | Cl | ClH
product | 6,6-difluoro-5-methyl-5-hexenyl 6-(toluene-4-sulfonylamino)nicotinate | 0.88 g, yield: 90% | C1(=CC=C(C=C1)S(=O)(=O)NC1=NC=C(C(=O)OCCCCC(=C(F)F)C)C=C1)C | C20H22F2N2O4S
